US07569578B2
5-(2-methoxy-vinyl)-7-methyl-1H-indazole
Methoxymethyl triphenylphosphonium chloride (2.74 g, 8 mmol, 2.0 equiv.) and potassium tert-butoxide (1.35 g, 12 mmol, 3.0 equiv.) were weighed into a 250-mL oven-dried flask. Tetrahydrofuran (15 mL) was slowly introduced via syringe under nitrogen. After the resulting red solution was stirred at room temperature for 10 min, 7-methylindazole aldehyde (641 mg, 1.0 equiv.) was added in one portion. LCMS indicated that the reaction was complete within 1 h. The reaction was quenched with water and the mixture was then diluted with ethyl acetate. The layers were separated and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to give a tan oil. The crude product was purified by flash column chromatography on silica gel (1:1 hexane/ethyl acetate) to afford the desired product as an off-white solid (710 mg, 94%). MS (ESI) [M+H]+=189; 1H NMR indicated a mixture of isomers (trans/cis ˜3:1). Trans isomer: 1H-NMR (400 MHz, CDCl3) δ 12.3 (br., 1H), 8.13 (s, 1H), 7.88 (s, 1H), 7.42 (s, 1H), 6.12 (d, J=7.0 Hz, 1H), 5.31 (d, J=7.0 Hz, 1H), 3.80 (s, 3H), 2.60 (s, 3H).

reactant | Methoxymethyl triphenylphosphonium chloride | 8 mmol, 2.74 g, 2.0 equiv. | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 12 mmol, 1.35 g, 3.0 equiv. | CC(C)([O-])C.[K+]
reactant | 7-methylindazole aldehyde | 641 mg, 1.0 equiv. | CC=1C=CC=C2C(=NNC12)C=O | C9H8N2O
product | 5-(2-methoxy-vinyl)-7-methyl-1H-indazole | 710 mg, 94% | COC=CC=1C=C2C=NNC2=C(C1)C | C11H12N2O
